parameters  eps = 17 epsphib = 5.5 Ndiscmin=0.008
subckt my_ckt r0 c0 
I0 (r0 c0) JART_VCM_1b_det eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = 20 Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
ends my_ckt
XBAR (r0 c0 ) my_ckt
V0 (r0  0) vsource type=pulse val0=-0.75 val1=0.2 period=200n width=50n rise=25n fall=25n 
V1 (c0  0) vsource dc=0

 save XBAR.I0:OE XBAR.I0:AE
ahdl_include "/net/home/zahr/Documents/Gitlab/auto-spice/deps/JART-memristor-models/JART_VCM_v1b.va"
simulatorOptions options vabstol=1e-6 iabstol=1e-12 temp=27 tnom=27 gmin=1e-12
trans tran stop=10m errpreset=conservative maxstep =1u write="spectre.ic" 		writefinal="spectre.fc" annotate=status maxiters=5
saveOptions options save=all currents=all saveahdlvars=all